US07495103B2
2-tert-Butyl-4-(3-ethoxyphenyl)-5-aminophenol (C-16) was synthesized following the general scheme above starting from 2-tert-butyl-4-bromo-5-nitrophenol (C-14-a) and 3-ethoxyphenyl boronic acid. HPLC ret. time 2.77 min, 10-99% CH3CN, 5 min run; ESI-MS 286.1 m/z (MH+).

reactant | 2-tert-butyl-4-bromo-5-nitrophenol | C(C)(C)(C)C1=C(C=C(C(=C1)Br)[N+](=O)[O-])O | C10H12BrNO3
reactant | 3-ethoxyphenyl boronic acid | C(C)OC=1C=C(C=CC1)B(O)O | C8H11BO3
solvent | CH3CN | CC#N | C2H3N
product | 2-tert-Butyl-4-(3-ethoxyphenyl)-5-aminophenol | C(C)(C)(C)C1=C(C=C(C(=C1)C1=CC(=CC=C1)OCC)N)O | C18H23NO2
